US04618669
S-(2-Phenylcarbamoyl-phenylselenyl)-L-cysteine
2,74 g (10 mmol) 2-phenyl-1,2-benzoisoselenazole-3(2H)-one and 1,21 g (10 mmol) L-cysteine are dissolved in 25 ml trifluororacetic acid. This solution is stirred for 18 hours at room temperature. Then, 150 ml of an ice-water mixture are added to this solution. The deposited precipitate after some stirring becomes solid. It is sucked off and finally dissolved in methanol. After evaporation of the solvent, a residue remains which is washed with ether.

reactant | 2-phenyl-1,2-benzoisoselenazole-3(2H)-one | 10 mmol, 2,74 g | C1(=CC=CC=C1)N1[Se]C2=C(C1=O)C=CC=C2 | C13H9NOSe
reactant | L-cysteine | 10 mmol, 1,21 g | N[C@@H](CS)C(=O)O | C3H7NO2S
solvent | methanol | CO | CH4O
product | S-(2-Phenylcarbamoyl-phenylselenyl)-L-cysteine | C1(=CC=CC=C1)NC(=O)C1=C(C=CC=C1)[Se]SC[C@H](N)C(=O)O | C16H16N2O3SSe
